US08729263B2
To a solution of tert-butyl 4-(2-fluoro-4-hydroxy-5-methoxyphenyl)-1H-pyrazole-1-carboxylate (700 mg, 2.27 mmol) in DCM (11.4 mL) was added triethylamine (01.27 mL, 9.08 mmol) at RT. The reaction mixture was cooled to 0° C., followed by addition of N-phenyltrifluoromethanesulfonimide (973 mg, 2.72 mmol). The reaction mixture was warmed to RT and stirred for two hours. The reaction was quenched with aqueous sodium bicarbonate solution and extracted with DCM. The organic layer was dried over sodium sulfate, filtered and concentrated to give the crude product, which was purified on silica gel to afford tert-butyl 4-(2-fluoro-5-methoxy-4-(((trifluoromethyl)sulfonyl)oxy)phenyl)-1H-pyrazole-1-carboxylate (724 mg) MS [M+H+—BOC]=341.0.

reactant | tert-butyl 4-(2-fluoro-4-hydroxy-5-methoxyphenyl)-1H-pyrazole-1-carboxylate | 2.27 mmol, 700 mg | FC1=C(C=C(C(=C1)O)OC)C=1C=NN(C1)C(=O)OC(C)(C)C | C15H17FN2O4
reactant | triethylamine | 9.08 mmol | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 2.72 mmol, 973 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DCM | 11.4 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(2-fluoro-5-methoxy-4-(((trifluoromethyl)sulfonyl)oxy)phenyl)-1H-pyrazole-1-carboxylate | 724 mg | FC1=C(C=C(C(=C1)OS(=O)(=O)C(F)(F)F)OC)C=1C=NN(C1)C(=O)OC(C)(C)C | C16H16F4N2O6S
